US08048894B2
Method 15. Preparation of 4-(5-Hydroxy-8-methyl-7-oxo-3-phenyl-7,8-dihydropyrido[2,3-c]pyridazin-6-yl)-4-oxobutanoic acid
Ethyl 4-(5-hydroxy-8-methyl-7-oxo-3-phenyl-7,8-dihydropyrido[2,3-c]pyridazin-6-yl)-4-oxobutanoate. The title compounds is prepared by rearrangement of ethyl 8-methyl-7-oxo-3-phenyl-7,8-dihydropyrido[2,3-c]pyridazin-5-yl succinate using sodium acetate according to literature procedures. Alternatively, the title compound is prepared by rearrangement of ethyl 8-methyl-7-oxo-3-phenyl-7,8-dihydropyrido[2,3-c]pyridazin-5-yl succinate using aluminum chloride according to that described in Method 4 (step c).

reactant | Ethyl 4-(5-hydroxy-8-methyl-7-oxo-3-phenyl-7,8-dihydropyrido[2,3-c]pyridazin-6-yl)-4-oxobutanoate | OC1=C(C(N(C=2N=NC(=CC21)C2=CC=CC=C2)C)=O)C(CCC(=O)OCC)=O | C20H19N3O5
reactant | ethyl 8-methyl-7-oxo-3-phenyl-7,8-dihydropyrido[2,3-c]pyridazin-5-yl succinate | C(CCC(=O)OC1=CC(N(C=2N=NC(=CC21)C2=CC=CC=C2)C)=O)(=O)OCC | C20H19N3O5
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
product | 4-(5-Hydroxy-8-methyl-7-oxo-3-phenyl-7,8-dihydropyrido[2,3-c]pyridazin-6-yl)-4-oxobutanoic acid | OC1=C(C(N(C=2N=NC(=CC21)C2=CC=CC=C2)C)=O)C(CCC(=O)O)=O | C18H15N3O5
